US05945380
7.38 g (0.03 mol) of [4-(2,6-dichloropyridin-4-yl)-thiazol-2-yl]-amine and 70 ml of acetic anhydride are heated under reflux for 30 minutes, a solution initially forming but a precipitate then separating out. The reaction mixture is left to stand at room temperature for 16 hours, 200 ml of ice-water are then added and the mixture is filtered with suction. The residue is first washed several times with water and then digested with 200 ml of 5% strength aqueous sodium bicarbonate solution, and is filtered off with suction again. The product is dried at 50° C. under reduced pressure. 8.1 g (93.8% of theory) of N-[4-(2,6-dichloropyridin-4-yl)-thiazol-2-yl]-acetamide are obtained in this manner in the form of a solid substance of melting point 301° C.

reactant | [4-(2,6-dichloropyridin-4-yl)-thiazol-2-yl]-amine | 0.03 mol, 7.38 g | ClC1=NC(=CC(=C1)C=1N=C(SC1)N)Cl | C8H5Cl2N3S
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-[4-(2,6-dichloropyridin-4-yl)-thiazol-2-yl]-acetamide | 8.1 g, 93.8% | ClC1=NC(=CC(=C1)C=1N=C(SC1)NC(C)=O)Cl | C10H7Cl2N3OS
